US05650428
The procedure described in Example 180 was repeated, except that (S)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid (2 g) and ethyl 3-aminobenzoate were condensed in dichloromethane (100 ml) in the presence of N,N'-dicyclohexylcarbodiimide (1.29 g). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was recrystallized from ethanol to obtain (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-phenylpropanamide (812 mg).

reactant | (S)-2-(4-bromobenzenesulfonylamino)-3-phenylpropanoic acid | 2 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C15H14BrNO4S
reactant | ethyl 3-aminobenzoate | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 1.29 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-2-(4-bromobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-phenylpropanamide | 812 mg | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)CC1=CC=CC=C1 | C24H23BrN2O5S
